US07521443B2
13-cyclohexyl-10-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid.
Tetrabutylammoniumhydroxide (9.1 mL, 40% solution in water) was added dropwise to a cooled solution (0° C., ice bath) containing dimethyl 13-cyclohexyl-7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxylate and THF (463 mL). The solution was maintained with continued cooling for 50 min. and then concentrated to a volume of about 50 mL. The resultant solution was diluted with ethyl acetate (250 mL), washed with aq. HCl (0.5 N, 3×150 mL), washed with brine (150 mL), dried (magnesium sulfate), filtered, and concentrated to afford a yellow solid. LCMS: retention time: 1.698 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna 10u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 5% CH3CN/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% CH3CN/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode: m/z 416 (MH+). 1H NMR (300 MHz, DMSO-D6) δ ppm: 12.97 (s, 1H), 8.17 (m, 1H), 7.91 (m, 2H), 7.63 (m, 5H), 5.56 (s, 1H), 4.51 (m, 1H), 3.89 (m, 3H), 2.80 (m, 1H), 1.99 (m, 6H), 1.30 (m, 4H).

reactant | Tetrabutylammoniumhydroxide | 9.1 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dimethyl 13-cyclohexyl-7H-indolo[2,1-a][2]benzazepine-6,10-dicarboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)OC)C=CC=C1)C(=O)OC | C27H27NO4
solvent | THF | 463 mL | C1CCOC1 | C4H8O
product | 13-cyclohexyl-10-(methoxycarbonyl)-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)O)C=CC=C1)C(=O)OC | C26H25NO4
